US04891372
3-Tertiary-butoxycarbonyl-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine
A solution of di-t-butyldicarbonate (2.18 g) in dry methylene chloride (15 ml) was added dropwise to a stirred solution of 7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine (1.92 g) in dry methylene chloride (40 ml) cooled to 0°. After stirring for 18 hours at room temperature the solvent was removed in vacuo to give an oil which was dissolved in methylene chloride, then washed twice with aqueous sodium bicarbonate, three times with 1M hydrochloric acid and finally twice with brine. The methylene chloride solution was dried (Na2SO4) and evaporated in vacuo to give an oil which was triturated with hexane to give the title compound, yield 2.33 g, m.p. 106-108.

reactant | di-t-butyldicarbonate | 2.18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | 1.92 g | [N+](=O)([O-])C1=CC2=C(CCNCC2)C=C1 | C10H12N2O2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-Tertiary-butoxycarbonyl-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)[N+](=O)[O-] | C15H20N2O4
